US04169200
(E) 2-(1,2,3,6-Tetrahydro-4-pyridinyl)benzoxazole
To a solution of 52.6 g of 4-(2-benzoxazolyl)-3,6-dihydro-1(2H)-pyridinecarboxylic acid, 2,2,2-trichloroethyl ester in 1250 ml of glacial acetic acid is gradually added 92.5 g of zinc dust and the reaction mixture stirred at room temperature under nitrogen for 6 hours. The reaction mixture is filtered and concentrated on the rotary evaporator to give a viscous gum. This material is suspended in 500 ml of water, the pH adjusted to 2-3, and the suspension extracted with 500 ml of ether in two portions. These are combined, dried and concentrated to give 11.32 g of unreacted starting material.

reactant | 4-(2-benzoxazolyl)-3,6-dihydro-1(2H)-pyridinecarboxylic acid, 2,2,2-trichloroethyl ester | 52.6 g | O1C(=NC2=C1C=CC=C2)C=2CCN(CC2)C(=O)OCC(Cl)(Cl)Cl | C15H13Cl3N2O3
solvent | acetic acid | 1250 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
catalyst | zinc | 92.5 g | [Zn] | Zn
product | 2-(1,2,3,6-Tetrahydro-4-pyridinyl)benzoxazole | N1CCC(=CC1)C=1OC2=C(N1)C=CC=C2 | C12H12N2O
